US07507827B2
2,α-Dichlorophenyl acetic acid-(R)-2-(1-pyrrolidinyl)-1-phenylethyl ester
A solution of 5.7 g of (R)-1-phenyl-2-(1-pyrrolidinyl)-ethanol in 25 ml of tetrahydrofurane was added to a solution of 6.5 g of 2,α-dichlorophenyl acetyl chloride in 25 ml of tetrahydrofurane containing 0.9 g of 4-dimethylamine pyridine. According to a similar procedure as in example 3, a mixture of diastereomeric esters containing 72% (R,R) and 28% (R,S) of the product in a yield of 8.4 g (74%) was obtained.

reactant | (R)-1-phenyl-2-(1-pyrrolidinyl)-ethanol | 5.7 g | C1(=CC=CC=C1)[C@H](CN1CCCC1)O | C12H17NO
reactant | 2,α-dichlorophenyl acetyl chloride | 6.5 g | ClC1=C(C=CC=C1)C(C(=O)Cl)Cl | C8H5Cl3O
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 25 ml, 0.9 g | O1CCCC1 | C4H8O
catalyst | 4-dimethylamine pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2,α-Dichlorophenyl acetic acid-(R)-2-(1-pyrrolidinyl)-1-phenylethyl ester | N1(CCCC1)C[C@@H](C1=CC=CC=C1)OC(C(Cl)C1=C(C=CC=C1)Cl)=O | C20H21Cl2NO2
